US04710507
4-Iodo-2-[prop-2-yl]aniline
Iodine monochloride (12.9 cm3) was added at room temperature to a stirred solution of 2-[prop-2-yl]-aniline (27.0 g) and sodium acetate (16.4 g) in acetic acid (250 cm3). After 1 hour, volatile material was removed in vacuo and the residue was partitioned between ethyl acetate (200 cm3) and 10% sodium carbonate solution (50 cm3). The dried (MgSO4) organic extract was filtered and evaporated in vacuo to afford an oil which was chromatographed on silica (Merck "MK 60.9385") eluting with hexane. Combination and evaporation of the product containing fractions gave the product as a crude dark unstable oil (38 g) which was not characterised fully but was used directly in Preparation 84.

reactant | Iodine monochloride | 12.9 cm3 | ICl | ClI
reactant | 2-[prop-2-yl]-aniline | 27.0 g | CC(C)C1=C(N)C=CC=C1 | C9H13N
reactant | sodium acetate | 16.4 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 250 cm3 | C(C)(=O)O | C2H4O2
product | 4-Iodo-2-[prop-2-yl]aniline | 38 g | IC1=CC(=C(N)C=C1)C(C)C | C9H12IN
